US06610694B1
Production of 2-[6-[3-[4-(Diphenylmethoxy)piperidino]propoxy][1,2,4]triazolo[4,3-b]pyridazin-3-yl]-2-methylpropionitrile Hydrochloride
6.55 g of 4-(diphenylmethoxy)-1-piperidinepropanol was dissolved in 100 ml of tetrahydrofuran; 2.12 g of sodium tert-butoxide was added, followed by stirring at an external temperature of 60° C. for 40 minutes. After cooling, 4.86 g of 2-[6-chloro[1,2,4]triazolo[4,3-b]pyridazin-3-yl)-2-methylpropionitrile was added, followed by refluxing under heating for 5 hours. After cooling, saline was added; the reaction mixture was extracted with ethyl acetate, washed with saturated saline, and dried over magnesium sulfate. After concentration under reduced pressure, the residue was subjected to silica gel column chromatography and eluted with ethyl acetate-methanol-triethylamine (50:5:1). The desired fraction was collected and concentrated under reduced pressure; in 7.90 g of the residue was dissolved in 5 ml of pyridine; 5 ml of acetic anhydride was added, followed by stirring at room temperature for 15 hours. After saline was added, the reaction mixture was extracted with ethyl acetate, washed with saturated saline, and dried over magnesium sulfate. After concentration under reduced pressure, the residue was subjected to silica gel column chromatography and extracted with ethyl acetate-methanol-triethylamine (50:5:1). The desired fraction was collected and concentrated under reduced pressure; the residue (6.26 g) was dissolved in ethanol; 1.52 ml of a 4 N solution of hydrogen chloride in ethyl acetate was added, followed by concentration under reduced pressure. The residue was crystallized from methanol-ethanol (1:5), washed with ethanol-ethyl acetate (1:5), and dried, to yield 5.19 g of the title compound.

reactant | 4-(diphenylmethoxy)-1-piperidinepropanol | 6.55 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCO)C1=CC=CC=C1 | C21H27NO2
reactant | sodium tert-butoxide | 2.12 g | CC(C)([O-])C.[Na+]
reactant | 2-[6-chloro[1,2,4]triazolo[4,3-b]pyridazin-3-yl)-2-methylpropionitrile | 4.86 g | ClC=1C=CC=2N(N1)C(=NN2)C(C#N)(C)C | C9H8ClN5
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-[6-[3-[4-(Diphenylmethoxy)piperidino]propoxy][1,2,4]triazolo[4,3-b]pyridazin-3-yl]-2-methylpropionitrile Hydrochloride | 5.19 g | Cl.C1(=CC=CC=C1)C(OC1CCN(CC1)CCCOC=1C=CC=2N(N1)C(=NN2)C(C#N)(C)C)C2=CC=CC=C2 | InChI=1S/C30H34N6O2.ClH/c1-30(2,22-31)29-33-32-26-14-15-27(34-36(26)29)37-21-9-18-35-19-16-25(17-20-35)38-28(23-10-5-3-6-11-23)24-12-7-4-8-13-24;/h3-8,10-15,25,28H,9,16-21H2,1-2H3;1H
